US06515028B1
Preparation of N-[2-(4-trifluoromethylphenyl)-ethyl]-glucamine
Ethanol (40 ml) is added to a pressure shaker bomb. One part of glucose is dissolved in the solvent followed by one part of 2-(4-trifluoromethylphenyl)-ethylamine. Hydrochloric acid is added to a pH of about 8 to 9. Wet 50% palladium on carbon 0.1 of a part of glucose is added and the mixture is agitated at about 40 degrees centigrade under about 3 atm of hydrogen gas until hydrogen uptake ceases. The hydrogen is vented and the catalyst is removed by filtration and the filtrated is washed with ethanol and the washings are added to the filtrate. The pH of the solution is lowered to about pH=4 with additional hydrochloric acid and the solvents removed on a rotary evaporator under reduced pressure.

reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | 2-(4-trifluoromethylphenyl)-ethylamine | FC(C1=CC=C(C=C1)CCN)(F)F | C9H10F3N
reactant | Hydrochloric acid | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | Ethanol | 40 ml | C(C)O | C2H6O
product | N-[2-(4-trifluoromethylphenyl)-ethyl]-glucamine | FC(C1=CC=C(C=C1)CCNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)(F)F | C15H22F3NO5
